US06562085B1
Dibutyltin Bis-[3-(5-chloro-2H-benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate]
Following the synthetic procedure of Example 25, the title compound is prepared by reaction of the corresponding equivalent amounts of 3-(5-chloro-2H-benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamic acid and dibutyltin oxide to give the title compound as a yellow resin (47.24 g, 97.6% yield) whose structure is consistent with 1Hnmr.

reactant | 3-(5-chloro-2H-benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamic acid | ClC1=CC=2C(=NN(N2)C=2C=C(CCC(=O)O)C=C(C2O)C(C)(C)C)C=C1 | C19H20ClN3O3
reactant | dibutyltin oxide | C(CCC)[Sn](CCCC)=O
product | Dibutyltin Bis-[3-(5-chloro-2H-benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate] | ClC1=CC=2C(=NN(N2)C=2C=C(CCC(=O)[O-])C=C(C2O)C(C)(C)C)C=C1.ClC1=CC=2C(=NN(N2)C=2C=C(CCC(=O)[O-])C=C(C2O)C(C)(C)C)C=C1.C(CCC)[Sn+2]CCCC | InChI=1S/2C19H20ClN3O3.2C4H9.Sn/c2*1-19(2,3)13-8-11(4-7-17(24)25)9-16(18(13)26)23-21-14-6-5-12(20)10-15(14)22-23;2*1-3-4-2;/h2*5-6,8-10,26H,4,7H2,1-3H3,(H,24,25);2*1,3-4H2,2H3;/q;;;;+2/p-2
